US07776869B2
Oxalyl chloride (0.542 g, 0.37 ml, 4.27 mmol) was added dropwise to a solution of 3,5-di-tert-butylbenzoic acid (0.200 g, 0.853 mmol) and dichloromethane (4 ml). N,N-Dimethylformamide (1 drop) was added and the colorless solution stirred at RT for 3 h. The solution was concentrated to afford 3,5-di-tert-butylbenzoyl chloride as a yellow oil.

reactant | Oxalyl chloride | 4.27 mmol, 0.37 ml, 0.542 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-di-tert-butylbenzoic acid | 0.853 mmol, 0.200 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C15H22O2
catalyst | N,N-Dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3,5-di-tert-butylbenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1)C(C)(C)C | C15H21ClO
